US04282245
A mixture of 70 mg of 2-(10,11-dihydro-8-ethoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide, 800 mg of sodium hydroxide, 5 ml of water and 5 ml of ethanol was refluxed for 3 hours. After the completion of the reaction, the solvent was removed by distillation to obtain a residue, to which was added ice water, and the mixture was acidified with 10% hydrochloric acid and extracted with chloroform. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain a residue, which was chromatographed over silica gel and eluted with chloroform/benzene (4/1), thereby obtaining 26 mg (yield: 37%) of 2-(10,11-dihydro-8-ethoxy-11-oxodibenzo-[b,f]thiepin-2-yl)-propionic acid as an oil.

reactant | 2-(10,11-dihydro-8-ethoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide | 70 mg | C(C)OC=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)N)C)=O)C1 | C19H19NO3S
reactant | sodium hydroxide | 800 mg | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-(10,11-dihydro-8-ethoxy-11-oxodibenzo-[b,f]thiepin-2-yl)-propionic acid | 26 mg, yield: 37% | C(C)OC=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)O)C)=O)C1 | C19H18O4S
